US07259157B2
Preparation of benzyl 4-[({[2-(methylsulfonyl)pyrimidin-4-yl]carbonyl}amino)methyl]piperidine-1-carboxylate
2-(Methylsulfonyl)pyrimidine-4-carboxylic acid was coupled to benzyl 4-(aminomethyl)piperidine-1-carboxylate according to the procedure for EXAMPLE 1.

reactant | 2-(Methylsulfonyl)pyrimidine-4-carboxylic acid | CS(=O)(=O)C1=NC=CC(=N1)C(=O)O | C6H6N2O4S
reactant | benzyl 4-(aminomethyl)piperidine-1-carboxylate | NCC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C14H20N2O2
product | benzyl 4-[({[2-(methylsulfonyl)pyrimidin-4-yl]carbonyl}amino)methyl]piperidine-1-carboxylate | CS(=O)(=O)C1=NC=CC(=N1)C(=O)NCC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C20H24N4O5S
